.TITLE Filtro para la señal triangular

.INCLUDE lib/third_party.lib

V1	vcc 0 15
V2	vss 0 -15
V_s     trian_sig 0 PULSE(5 10 0 2u 2u 1n 4u) 
V_a     audio_in 0 SIN(0 1.5 1000 0 0)

X_filter vcc vss trian_sig audio_in out  PWM_pos PWM_neg PRE_FILTER
.LIB FILTER_AND_PMW
.SUBCKT PRE_FILTER vcc vss trian_sig audio_in trian_filt PWM_pos PWM_neg

*AMP_OPE    no_inv      inv        vcc    vss    out        model
X_TL084_1A  trian_sig   sig_OA1    vcc    vss    sig_OA1    TL084
X_TL084_1B  0           no_inv2    vcc    vss    trian_filt TL084

C03     sig_OA1    sig_OA1C     10n     IC=7.5       
R7	sig_OA1C   no_inv2	12000
R10	no_inv2    trian_filt	12000

*AMP_OPE      no_inv      inv           vcc    vss    out           model
X_TL084_1C    audio_in    audio_no_inv  vcc    vss    audio_no_inv  TL084   
X_TL084_1D    0           OA_1D_no_inv  vcc    vss    audio_inv     TL084

R8    audio_no_inv        OA_1D_no_inv    12000
R9    OA_1D_no_inv        audio_inv	  12000

X_LM319_A vcc trian_filt audio_no_inv PWM_pos LM319
X_LM319_B vcc trian_filt audio_inv    PWM_neg LM319

*X_LM319_A trian_filt audio_no_inv  vcc vss PWM_pos LMX19
*X_LM319_B trian_filt audio_inv     vcc vss PWM_neg LMX19
.ENDS

.SUBCKT LM319 vcc v_no_inv v_inv out
.param Vlow = 0
E_LM319 out 0 Vol = V(v_no_inv) < V(v_inv) ? Vlow : V(Vcc)
.ends

.ENDL
.control

options ;RELTOL=0.00001
tran 10n 10u uic
plot trian_sig out

tran 10n 100u uic

plot audio_in out pwm_neg PWM_pos+0.1
.endc
.end
