* Modelo IR2010 fulero


V1 Hin 0 PULSE(15 0 0 1n 1n 5u 10u)
V2 Lin 0 PULSE(0 15 0 1n 1n 5u 10u)
V3 Vs 0 35
         

x_IR2010 HIN LIN HO LO VS 0 IR2010

R1 Ho 0 10000
R2 Lo 0 10000

*.subckt IR2010 vdd  HIN SD LIN VSS HO VB VS VCC COM LO
.LIB IR2010LIB
.subckt IR2010 HIN LIN HO LO  VS  COM

BE01 HO VS  V = V(HIN) > 7.5 ? 15 : 0
BE02 LO COM V = V(LIN) > 7.5 ? 15 : 0


.ends
.ENDL
.control
tran 10n 20u
.endc
.end
